US03954754
EXAMPLE 19: 3-Hydrazino-5,6,7,8-tetrahydro-6-(4-phenylbutyryl)pyrido[4,3-c]pyridazine
11.8 g of 3-chloro-5,6,7,8-tetrahydro-6-(4-phenylbutyryl)pyrido[4,3-c]pyridazine and 60 cc of hydrazine hydrate are stirred at a bath temperature of 50° for 53 hours with the addition of 50 cc of dioxane. The mixture is worked up as described in Example 10. The gentisinate of the title compound has a M.P. of 203°-205° (decomp., from methanol/water 2:1).

reactant | 3-chloro-5,6,7,8-tetrahydro-6-(4-phenylbutyryl)pyrido[4,3-c]pyridazine | 11.8 g | ClC1=CC2=C(N=N1)CCN(C2)C(CCCC2=CC=CC=C2)=O | C17H18ClN3O
reactant | hydrazine hydrate | 60 cc | O.NN
reactant | gentisinate | C1=CC(=C(C=C1O)C(=O)O)O | C7H6O4
solvent | dioxane | 50 cc | O1CCOCC1 | C4H8O2
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-(4-phenylbutyryl)pyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(CCCC2=CC=CC=C2)=O | C17H21N5O
